US07943776B2
N-cyclopropyl-4-methyl-{[4-(1-pyridin-2-ylethoxy)benzoyl]amino}benzamide
To 3-{[4-(hydroxy)benzoyl]amino}-N-cyclopropyl-4-methylbenzamide (150 mg, 0.484 mmol) in DCM (20 mL) was added polymer supported triphenyl phosphine (937 mg, 1.45 mmol) and the 1-pyridin-2-ylethanol (45 mg, 0.363 mmol). Diethyl azodicarboxylate (126 mg, 0.726 mmol) was then added dropwise. The reaction was stirred for 17 h at room temperature and was then filtered and the filtrates were evaporated. The crude residue was purified by flash silica chromatography using ethyl acetate in iso-hexane (5-100%) as the eluent to give the title compound as a colourless oil (22 mg, 11%); NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.68 (m, 2H), 1.64 (d, 3H), 2.22 (s, 3H), 2.83 (m, 1H), 5.60 (q, 1H), 7.02 (d, 2H), 7.31 (d, 2H), 7.43 (d, 1H), 7.62 (d, 1H), 7.80 (m, 2H), 7.90 (d, 2H), 8.35 (d, 1H), 8.58 (d, 1H), 9.75 (s, 1H); Mass Spectrum: M+H+ 416.

reactant | 3-{[4-(hydroxy)benzoyl]amino}-N-cyclopropyl-4-methylbenzamide | 0.484 mmol, 150 mg | OC1=CC=C(C(=O)NC=2C=C(C(=O)NC3CC3)C=CC2C)C=C1 | C18H18N2O3
reactant | triphenyl phosphine | 1.45 mmol, 937 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-pyridin-2-ylethanol | 0.363 mmol, 45 mg | N1=C(C=CC=C1)C(C)O | C7H9NO
reactant | Diethyl azodicarboxylate | 0.726 mmol, 126 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-4-methyl-{[4-(1-pyridin-2-ylethoxy)benzoyl]amino}benzamide | 22 mg, 11% | C1(CC1)NC(C1=C(C=C(C=C1)C)NC(C1=CC=C(C=C1)OC(C)C1=NC=CC=C1)=O)=O | C25H25N3O3
